Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[H:10].[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[C:8]([H:9])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],4.4000249648
[H:1][O:2][C:3]([H:4])[H:5].[O:6]=[C:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-0.664447832002
[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3]#[C:4]>>[H:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-5.2073593997000005
[H:1][C:2](=[C:3]([H:4])[H:5])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17].[H:6]>>[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],-1.92553485063
[H:1].[O:2][C@@:3]([H:4])([O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][O:2][C@:3]([H:4])([O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-4.597085365369999
[H:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]#[C:13][H:14]>>[H:1][C:2]=[C:3]([H:4])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]#[C:13][H:14].[H:5],1.56090389573
[C:1]#[C:2]/[C:3]([H:4])=[C:5]/[O:6][C:7]([H:8])[H:9]>>[C:1]#[C:2].[C:3]([H:4])#[C:5][O:6][C:7]([H:8])[H:9],3.9644343848800014
[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:12]([H:13])([H:14])[H:15].[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7][C:8]([H:9])([H:10])[H:11],3.4507837815199993
[O:1]=[C:2]([C:3][H:4])[C:9]([C:6]([O:5])([H:7])[H:8])([H:10])[H:11]>>[O:1]=[C:2]1[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]1([H:10])[H:11],-4.42750829204
[O:1]=[C:2].[O:3]=[C:4]([H:5])[C:6]([H:7])[H:8]>>[O:1]=[C:2][O:3][C:4]([H:5])=[C:6]([H:7])[H:8],-0.052912996560300005
[C:4]([H:5])[H:6].[H:1][C:2]=[O:3]>>[H:1][C:2][O:3][C:4]([H:5])[H:6],-2.08319098599
[H:1][C:2]#[C:4][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12].[H:3]>>[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12],-1.93026136431
[C:1]#[C:2][O:3][H:4].[C:5]([H:6])#[C:7][O:8][H:9]>>[C:1]=[C:2]([O:3][H:4])/[C:5]([H:6])=[C:7]/[O:8][H:9],-0.91295620559
[C:13]([H:14])[H:15].[H:1][O:2][C:3]([H:4])([H:5])/[C:6]=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([C:7]([H:8])[C:9]([H:10])([H:11])[H:12])=[C:13]([H:14])[H:15],-6.37627763622
[O:1]=[C:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[H:10]>>[C:6][C:7]([H:8])([H:9])[H:10].[O:1]=[C:2]=[C:3]([H:4])[H:5],0.925088014561
[C:9]([H:10])([H:11])[H:12].[H:1][C:2]([H:3])[C@@:4]([H:5])([C:6]([H:7])=[C:8])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]([H:3])[C@:4]([H:5])(/[C:6]([H:7])=[C:8]/[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-3.67899259086
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])[H:11].[O:12][H:13]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[O:12][H:13],-5.242092830330001
[H:10].[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])=[C:11]=[C:12]([H:13])[H:14]>>[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]=[C:12]([H:13])[H:14],-1.85332468823
[C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]=[C:13]([H:14])[H:15].[H:1][O:2]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]=[C:13]([H:14])[H:15],-5.31765986755
[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[O:1][O:2][C:3]([H:4])=[C:5]([H:6])[H:7]>>[O:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-2.24093415181
[C:2]#[C:3][C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9]/[O:10][H:11].[H:1]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9]/[O:10][H:11],-5.95416056181
[H:10].[H:1][C:2]([C:3]([H:4])([H:5])[O:6][C:7]([H:8])[H:9])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[H:1][C:2]([C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],-4.296161802009999
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])/[C:7]([H:8])=[C:10](\[H:11])[C:12]([H:13])([H:14])[H:15].[H:9]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[C:12]([H:13])([H:14])[H:15],-1.80526740818
[O:1]=[C:2]([C:3]([H:4])([H:5])[O:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:2](=[O:6])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[O:1]([C:3]([H:4])[H:5])[H:7],3.344585982
[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]#[C:12][H:13].[O:1]=[C:2]([H:3])[H:4]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]#[C:12][H:13],-0.84811299904
[O:1]=[C:2]=[C:3][O:4][C:5]([H:6])[H:7]>>[C:2]#[C:3][O:4][C:5]([H:6])[H:7].[O:1],6.9550122354
[C:5]([H:6])([H:7])[H:8].[O:1]=[C:2]=[C:3]([H:4])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[O:1]=[C:2][C@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-1.62069008956
